US04652563
(v) 6-[4-[3-[2-Hydroxy-3-[2-methyl-4-(2-(cyclopropylmethoxy)ethyl)phenoxy]-N-benzylpropylamino]propionamido]phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
6-[4-(3-Benzylaminopropionamido)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone (7.0 g; 0.019 mol) and 1-[2-methyl-4-[2-(cyclopropylmethoxy)ethyl]phenoxy]-2,3-epoxypropane (7.32 g; 0.028 mol) were stirred under reflux in n-propanol (200 ml) for 17 hours. n-Propanol (100 ml) was distilled off and the mixture subjected to reflux for a further 24 hours. The reaction mixture was cooled, filtered and evaporated under reduced pressure to give an oily residue. This was subjected to high pressure liquid chromatography with dichloromethane:acetonitrile:methanol (200:4:4) as eluant. The fractions containing the desired compound were collected and evaporated under reduced pressure to give 6-[4-[3-[2-hydroxy-3-[2-methyl-4-(2-(cyclopropylmethoxy)ethyl)phenoxy]-N-benzylpropylamino]propionamido]phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone (5.2 g) as an oil. Unreacted epoxide (3.6 g) was also recovered.

reactant | 6-[4-(3-Benzylaminopropionamido)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.019 mol, 7.0 g | C(C1=CC=CC=C1)NCCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C21H24N4O2
reactant | 1-[2-methyl-4-[2-(cyclopropylmethoxy)ethyl]phenoxy]-2,3-epoxypropane | 0.028 mol, 7.32 g | CC1=C(OCC2CO2)C=CC(=C1)CCOCC1CC1 | C16H22O3
reactant | dichloromethane acetonitrile methanol | ClCCl.C(C)#N.CO
reactant | n-propanol | 200 ml | C(CC)O | C3H8O
product | 6-[4-[3-[2-Hydroxy-3-[2-methyl-4-(2-(cyclopropylmethoxy)ethyl)phenoxy]-N-benzylpropylamino]propionamido]phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | OC(CNCCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)C(OC1=C(C=C(C=C1)CCOCC1CC1)C)CC1=CC=CC=C1 | C37H46N4O5
